US07572808B2
Preparation of (3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)pyridin-2-yl)methyl acetate
A solution of 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-2-methyl-6-(trifluoromethyl)pyridine 1-oxide (60 mg, 0.12 mmol) in acetic anhydride (2 mL) in a sealed tube was stirred at 130° C. for 6 h. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The residue was diluted with EtOAc, washed with saturated aqueous NaHCO3, water, then saturated aqueous NaCl, dried (Na2SO4), filtered, and concentrated under reduced pressure to afford 45 mg of the crude product as a light brown foam. A portion of the product (15 mg) was purified using preparative reverse phase HPLC (Phenomenex Luna 5 μm C-18 21.2×100 mm column eluted with a linear gradient of 50% to 80% B over 8 min (A=0.1% trifluoroacetic acid, 90% water, 10% methanol and B=0.1% trifluoroacetic acid, 90% methanol, 10% water) with flow rate at 20 mL/min and UV detection at 220 nm). The desired fractions were concentrated under reduced pressure. The residue was dissolved in EtOAc, washed with saturated aqueous NaHCO3 once, water twice, then saturated aqueous NaCl, dried over Na2SO4 and evaporated. The residue was dissolved in acetonitrile, frozen and lyophilized to afford 7.5 mg of the title compound as a yellow powder. HPLC/MS: retention time=2.90 min, [M+H]+=554.1.

reactant | 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-2-methyl-6-(trifluoromethyl)pyridine 1-oxide | 0.12 mmol, 60 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=[N+](C(=CC2)C(F)(F)F)[O-])C)=O)C2=CC=NC=C2 | C25H17ClF3N5O2
reactant | acetic anhydride | 2 mL | C(C)(=O)OC(C)=O | C4H6O3
product | (3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)pyridin-2-yl)methyl acetate | 7.5 mg | C(C)(=O)OCC1=NC(=CC=C1CN1N=C2N(C=CC(=C2C2=CC=NC=C2)C2=CC=C(C=C2)Cl)C1=O)C(F)(F)F | C27H19ClF3N5O3
